US06632955B1
110 mg (0.2.9 mmol) of 3,4-di(t-butyldimethylsiloxy)benzaldehyde was dissolved in 10 ml of THF under the atmosphere of argon at −40° C., and 0.32 ml of rare earth metal complex solution A0 was mixed into the solution. After stirring for 30 minutes, 88.5 mg (1.45 mmol) of nitromethane was added dropwise to the mixture. After 67-hour reaction: time, (R)-1-(3,4-di(t-butyldimethylsiloxy)phenyl)-2-nitroethanol with an optical purity of 92% e.e. was obtained in a yield of 74%.

reactant | 3,4-di(t-butyldimethylsiloxy)benzaldehyde | 110 mg | O([Si](C)(C)C(C)(C)C)C=1C=C(C=O)C=CC1O[Si](C)(C)C(C)(C)C | C19H34O3Si2
reactant | nitromethane | 1.45 mmol, 88.5 mg | [N+](=O)([O-])C | CH3NO2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (R)-1-(3,4-di(t-butyldimethylsiloxy)phenyl)-2-nitroethanol | yield of 74% | O([Si](C)(C)C(C)(C)C)C=1C=C(C=CC1O[Si](C)(C)C(C)(C)C)[C@H](C[N+](=O)[O-])O | C20H37NO5Si2
